US05942515
Preparation of 8-tert-butyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine:
In a mixed solvent of 300 ml of tetrahydrofuran and 150 ml of methanol were dissolved 11.30 g of 8-tert-butyl-5-chloro-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo-[1,5-a]pyrimidine, and the reaction system was cooled to 0° C. To the solution were gradually added 3.75 g of palladium chloride and 7.83 g of sodium borohydride, and the mixture was stirred for 30 minutes at 0° C. Furthermore, 7.50 g of palladium chloride and 5.66 g of sodium borohydride were gradually added, and the resultant mixture was stirred for 30 minutes at 0° C. and for 2 hours at room temperature. The reaction solvent was distilled off under reduced pressure, and the resultant crude product was subjected to column chromatography on silica gel (ethyl acetate→ethyl acetate:methanol=10:1) to obtain 3.94 g (yield: 40.4%) of the intended product. White crystals.

reactant | 8-tert-butyl-5-chloro-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo-[1,5-a]pyrimidine | 11.30 g | C(C)(C)(C)N1CCC=2C(=NC=3N(C21)N=CC3)Cl | C12H15ClN4
reactant | sodium borohydride | 7.83 g | [BH4-].[Na+]
reactant | sodium borohydride | 5.66 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium chloride | 3.75 g | [Pd](Cl)Cl
catalyst | palladium chloride | 7.50 g | [Pd](Cl)Cl
product | 8-tert-butyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine | 3.94 g, yield: 40.4% | C(C)(C)(C)N1CCC=2C=NC=3N(C21)N=CC3 | C12H16N4
